US06432993B1
(3-1) t-Butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(4-hydroxyphenoxy)phenyl}-N-methylcarbamate
Using 0.79 g of t-butyl N-[2-amino-5-(4-hydroxyphenoxy)phenyl]-N-methylcarbamate, 0.84 g of 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid, 0.49 g of diethyl cyanophosphonate, 0.30 g of triethylamine and 60 ml of anhydrous tetrahydrofuran, reaction and purification were carried out in a similar manner to that described in Example (2-1), whereby 1.49 g of the desired compound were obtained.

reactant | t-butyl N-[2-amino-5-(4-hydroxyphenoxy)phenyl]-N-methylcarbamate | 0.79 g | NC1=C(C=C(C=C1)OC1=CC=C(C=C1)O)N(C(OC(C)(C)C)=O)C | C18H22N2O4
reactant | 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid | 0.84 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)O)C=C1 | C12H11NO5S
reactant | diethyl cyanophosphonate | 0.49 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 0.30 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | t-Butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(4-hydroxyphenoxy)phenyl}-N-methylcarbamate | 1.49 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)NC2=C(C=C(C=C2)OC2=CC=C(C=C2)O)N(C(OC(C)(C)C)=O)C)C=C1 | C30H31N3O8S
